US06495604B1
Sodium peroxyborate tetrahydrate (35.2 g) was admixed with acetic acid (200 ml) and heated to 50 to 55° C. and then a solution of ethyl 2-mercapto-5-phenyl-1-cyclohexene-1-carboxylate synthesized in Reference Example 13 (20 g) in acetic acid (200 ml) was added dropwise over 2 hours. The mixture was stirred at 50 to 55° C. for 3 hours and then at 80 to 85° C. for 5 hours and concentrated under reduced pressure. The residue was combined with acetonitrile (500 ml) and stirred at room temperature for 1 hour and the resultant insolubles were filtered off. The insolubles were washed with acetonitrile (20 ml) and the filtrate and the washing were combined and concentrated under reduced pressure, and the resultant residue was dissolved in a mixture of acetonitrile (500 ml) and methanol (500 ml) and stirred at room temperature for 2 hours. The resultant insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The residue was combined with diisopropyl ether (500 ml) and the pellet which precipitated was isolated by a filtration to obtain ethyl 5-phenyl-2-sulfo-1-cyclohexene-1-carboxylate as a white powder (40.4 g) containing inorganic substances.

reactant | Sodium peroxyborate tetrahydrate | 35.2 g | O.O.O.O.B([O-])([O-])O[O-].[Na+].[Na+].[Na+]
reactant | ethyl 2-mercapto-5-phenyl-1-cyclohexene-1-carboxylate | SC1=C(CC(CC1)C1=CC=CC=C1)C(=O)OCC | C15H18O2S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-phenyl-2-sulfo-1-cyclohexene-1-carboxylate | 40.4 g | C1(=CC=CC=C1)C1CCC(=C(C1)C(=O)OCC)S(=O)(=O)O | C15H18O5S
